US04883815
3.36 g (0.089 mol) of lithium aluminium hydride are suspended in 100 ml of tetrahydrofuran under argon, 11.6 g (0.044 mol) of 8-chloro-1,1-dimethyl-1,2,5,6-tetrahydrobenzo[f]quinolin-3-one are slowly added thereto and the mixture is boiled under reflux for 2.5 hours. The mixture is then cooled to 0°, 12 ml of 18 percent sodium hydroxide solution are added dropwise thereto and the mixture is filtered. On evaporation of the filtrate, there is obtained 8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as a yellow oil which is processed directly.

reactant | lithium aluminium hydride | 0.089 mol, 3.36 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-chloro-1,1-dimethyl-1,2,5,6-tetrahydrobenzo[f]quinolin-3-one | 0.044 mol, 11.6 g | ClC1=CC2=C(C=3C(CC(NC3CC2)=O)(C)C)C=C1 | C15H16ClNO
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | ClC1=CC2=C(C=3C(CCNC3CC2)(C)C)C=C1 | C15H18ClN
